US07196114B2
b) 3-[3-(2-Chloro-4,5-difluorobenzoyl)ureido]-5-(4-fluorophenyl)thiophene-2-carboxylic acid
3-Amino-5-(4-fluorophenyl)thiophene-2-carboxylic acid (50 mg) is initially charged in 3 ml of acetonitrile. The equimolar solution of 2-chloro-4,5-difluorobenzoyl isocyanate in acetonitrile is added and the mixture is stirred at RT. After 3 hours, the solid is filtered off with suction, stirred once more with methanol, filtered off with suction and dried under reduced pressure.

reactant | 3-Amino-5-(4-fluorophenyl)thiophene-2-carboxylic acid | 50 mg | NC1=C(SC(=C1)C1=CC=C(C=C1)F)C(=O)O | C11H8FNO2S
reactant | 2-chloro-4,5-difluorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=C(C(=C1)F)F | C8H2ClF2NO2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 3-[3-(2-Chloro-4,5-difluorobenzoyl)ureido]-5-(4-fluorophenyl)thiophene-2-carboxylic acid | ClC1=C(C(=O)NC(NC2=C(SC(=C2)C2=CC=C(C=C2)F)C(=O)O)=O)C=C(C(=C1)F)F | C19H10ClF3N2O4S
